US05162362
a) N-tertiary-Butyloxycarbonyl-alanyl-octahydroindole-2-carboxylic acid benzyl ester (Boc-Ala-Oic-OBzl)
19 g of Boc-Ala-OH are dissolved in 100 ml of dimethylformamide, and 13 ml of N-ethylmorpholine, 13.5 g of HOBt and 29.6 g of octahydroindole-2-carboxylic acid benzyl ester hydrochloride are added to the solution. The mixture is cooled in an ice bath, 21 g of dicyclohexylcarbodiimide are added to it, and it is stirred for 15 hours at room temperature. The precipitated urea is filtered off under suction, and the filtrate is concentrated in vacuo and taken up in ethyl acetate. The solution is extracted 3 times in each case with aqueous KHSO4 solution, KHCO3 solution and saturated NaCl solution and the organic phase is concentrated in vacuo.

reactant | Boc-Ala-OH | 19 g | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | N-ethylmorpholine | 13 ml | C(C)N1CCOCC1 | C6H13NO
reactant | HOBt | 13.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | octahydroindole-2-carboxylic acid benzyl ester hydrochloride | 29.6 g | Cl.C(C1=CC=CC=C1)OC(=O)C1NC2CCCCC2C1
reactant | dicyclohexylcarbodiimide | 21 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-tertiary-Butyloxycarbonyl-alanyl-octahydroindole-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1N(C2CCCCC2C1)C([C@@H](NC(=O)OC(C)(C)C)C)=O | C24H34N2O5
